US05880130
A mixture of 6-(3'-methylanilino)-4-[3'-(ethoxycarbonylmethoxy) anilino]pyrimidine (0.10 g) and diethanolamine (0.06 g) in ethanol (7 ml) was heated at reflux for 72 hours. The mixture was cooled and water (20 ml) added. The ethanol was evaporated and the solid filtered off to give 4-(3'-{N,N-di-(2-hydroxyethyl)carbamoylmethoxy}anilino]6-(3'-methylanilino)pyrimidine in 39% yield, m.p. 112°-113° C.;

reactant | 6-(3'-methylanilino)-4-[3'-(ethoxycarbonylmethoxy) anilino]pyrimidine | 0.10 g | CC=1C=C(NC2=CC(=NC=N2)NC2=CC(=CC=C2)OCC(=O)OCC)C=CC1 | C21H22N4O3
reactant | diethanolamine | 0.06 g | N(CCO)CCO | C4H11NO2
reactant | water | 20 ml | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 4-(3'-{N,N-di-(2-hydroxyethyl)carbamoylmethoxy}anilino]6-(3'-methylanilino)pyrimidine | 39% yield | OCCN(C(=O)COC=1C=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=CC1)CCO | C23H27N5O4
